US07256298B2
To a solution of 1.93 g (5.00 mmol) of 2-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethyl)-isothiourea hydrobromide in 10 ml of ethanol were added 0.48 g (12.00 mmol) of sodium hydroxide and 10 ml of -water, followed by 30 minutes of stirring at room temperature. Thereto was added 0.67 g (5.00 mmol) of 3-chloro-5,5-dimethyl-2-isoxazoline at room temperature, followed by further 12 hours of stirring under refluxing. After the completion of the reaction was confirmed, the solvent was removed by evaporation under reduced pressure. The obtained residue was poured into water and extracted with ethyl acetate. The resulting organic layer was washed with water and then dried over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure and the residue was purified by silica gel column chromatography to obtain 1.02 g (yield: 56.7%) of 3-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethylthio)-5,5-dimethyl-2-isoxazoline.

reactant | 2-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethyl)-isothiourea hydrobromide | 5.00 mmol, 1.93 g | Br.FC(OC1=C(C(=NN1C)C(F)(F)F)CSC(N)=N)F
reactant | sodium hydroxide | 12.00 mmol, 0.48 g | [OH-].[Na+]
reactant | water | O | H2O
reactant | 3-chloro-5,5-dimethyl-2-isoxazoline | 5.00 mmol, 0.67 g | ClC1=NOC(C1)(C)C | C5H8ClNO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethylthio)-5,5-dimethyl-2-isoxazoline | 1.02 g, yield: 56.7% | FC(OC1=C(C(=NN1C)C(F)(F)F)CSC1=NOC(C1)(C)C)F | C12H14F5N3O2S
